US07902394B2
(g) Ethyl 3-{3,4-difluoro-5-[(2S)-2-oxiranyl]phenyl}propanoate
To a solution of ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]propanoate (22.5 g, 52.5 mmol) in absolute ethanol (430 mL) was added potassium carbonate (7.27 g, 52.6 mmol) and the reaction was stirred at RT for 4 days. The reaction was concentrated and diluted with water and extracted with ethyl acetate (×2). The combined organic layers were washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated. Purification by column chromatography (0-25% ethyl acetate:hexane) afforded the desired product (11.07 g, 82%).

reactant | ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]propanoate | 52.5 mmol, 22.5 g | FC=1C=C(C=C(C1F)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)CCC(=O)OCC | C20H22F2O6S
reactant | potassium carbonate | 52.6 mmol, 7.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 430 mL | C(C)O | C2H6O
product | Ethyl 3-{3,4-difluoro-5-[(2S)-2-oxiranyl]phenyl}propanoate | 11.07 g, 82% | FC=1C=C(C=C(C1F)[C@@H]1OC1)CCC(=O)OCC | C13H14F2O3
